US08378118B2
Step-I: Preparation of 8-Methyl coumarin
The suspension of 2-Hydroxy-3-methyl benzaldehyde (30 gm, 0.220 mole) and anhydrous Sodium acetate (45 gm, 0.55 mole) in Acetic anhydride (45 gm, 0.44 mole) was heated at 175-180° C. for 6 hours. The reaction mixture was cooled; water (150 ml) and Hexane (60 ml) were added. It was stirred for an hour and filtered. The obtained solid was stirred with Diethyl ether (30 ml). Finally the suspension was filtered and dried to give 19 gm desired product.

reactant | 2-Hydroxy-3-methyl benzaldehyde | 0.220 mole, 30 gm | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | Sodium acetate | 0.55 mole, 45 gm | C(C)(=O)[O-].[Na+]
reactant | Acetic anhydride | 0.44 mole, 45 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 150 ml | O | H2O
solvent | Hexane | 60 ml | CCCCCC | C6H14
product | 8-Methyl coumarin | 19 gm, Yield: 85% | CC=1C=CC=C2C=CC(OC12)=O | C10H8O2
